US07666879B2
{4-[3-(4-Aminomethyl-phenyl)-imidazo[1,2-a]pyridin-7-yl]-phenyl}-(4-methyl-piperazin-1-yl)-methanone, bis hydrochloride
Combine (4-{7-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-benzyl)-carbamic acid tert-butyl ester (0.87 g, 1.65 mmol), 4N HCl in 1,4-dioxane (15 mL, 60 mmol) in 1,4-dioxane (35 mL) and stir overnight (16 hours). Concentrate slurry to a residue. Dissolve residue in methanol (50 mL) and concentrate to afford the title compound (0.90 g, 100%). MS(ES), m/z 426 (M+1 for free base).

reactant | (4-{7-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-benzyl)-carbamic acid tert-butyl ester | 1.65 mmol, 0.87 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC=C(C=C2)C(=O)N2CCN(CC2)C)=O | C31H35N5O3
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 35 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 60 mmol, 15 mL | O1CCOCC1 | C4H8O2
product | {4-[3-(4-Aminomethyl-phenyl)-imidazo[1,2-a]pyridin-7-yl]-phenyl}-(4-methyl-piperazin-1-yl)-methanone, bis hydrochloride | 0.90 g, 100% | Cl.Cl.NCC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC=C(C=C2)C(=O)N2CCN(CC2)C | InChI=1S/C26H27N5O.2ClH/c1-29-12-14-30(15-13-29)26(32)22-8-6-20(7-9-22)23-10-11-31-24(18-28-25(31)16-23)21-4-2-19(17-27)3-5-21;;/h2-11,16,18H,12-15,17,27H2,1H3;2*1H
